US08058269B2
The mixture of rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one (60 mg, 0.15 mmol), cyclobutanecarboxylic acid (18.4 mg, 0.18 mmol), EDCl (37 mg, 0.19 mmol), HOBt (30 mg, 0.19 mmol) and DIPEA (40 uL, 0.225) in DCM (2 mL) was stirred at root temperature for 2 hr. The mixture was purified by flash column chromatography to give 60 mg rac-Cyclobutanecarboxylic acid (2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-amide. MS: [M+H]+=474

reactant | rac-3-[(2-Amino-ethyl)-isopropyl-amino]-6-chloro-3-(3-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.15 mmol, 60 mg | NCCN(C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)C(C)C | C20H23Cl2N3O
reactant | cyclobutanecarboxylic acid | 0.18 mmol, 18.4 mg | C1(CCC1)C(=O)O | C5H8O2
reactant | EDCl | 0.19 mmol, 37 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.19 mmol, 30 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 40 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-Cyclobutanecarboxylic acid (2-{[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-isopropyl-amino}-ethyl)-amide | 60 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(CCNC(=O)C1CCC1)C(C)C | C25H29Cl2N3O2
